US06482852B2
(d) (2-benzyloxy-5-iodo-phenyl)-phosphonic acid diethyl ester
To a mixture of (2-hydroxy-5-iodo-phenyl)-phosphonic acid diethyl ester (14.7 g, 41.2 mmol) and cesium carbonate, (17.4 g, 53.5 mmol) in DMF (150 mL) was added benzyl bromide (6.40 mL, 54 mmol). The reaction was allowed to stir for 2.5 days at rt at which point the reaction was concentrated under reduced pressure, the residue diluted in 0.5 N HCl (30 mL) and extracted twice with EtOAc. The pooled organic extracts were washed with brine, dried over anhydrous Na2SO4 and concentrated under reduced pressure to give 17.4 g (91%) of a colorless solid after recrystallization (EtOAc-hexanes). Rf 0.36 (1:1 EtOAc-hexanes). Electrospray Mass Spectrum (50/50 acetonitrile/water) m/z 447 (M+H).

reactant | (2-hydroxy-5-iodo-phenyl)-phosphonic acid diethyl ester | 41.2 mmol, 14.7 g | C(C)OP(OCC)(=O)C1=C(C=CC(=C1)I)O | C10H14IO4P
reactant | cesium carbonate | 53.5 mmol, 17.4 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | benzyl bromide | 54 mmol, 6.40 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | (2-benzyloxy-5-iodo-phenyl)-phosphonic acid diethyl ester | 17.4 g, 91% | C(C)OP(OCC)(=O)C1=C(C=CC(=C1)I)OCC1=CC=CC=C1 | C17H20IO4P
